US06197975B1
Step 2.2E 3-(2-{benzyl-[4-(4-nitrophenyl)butyl]amino}ethyl)-2-(3,5-dimethylphenyl)-1H-indol-5-ylamine
To a solution of [3-(2-{benzyl-[4-(4-nitrophenyl)butyl]amino}ethyl)-2-(3,5-dimethylphenyl)-1H-indol-5-yl]carbamic acid benzyl ester (500 mg in 25 mL dry methylene chloride) was added 0.50 mL anisole followed by 0.035 mL benzyl alcohol and the mixture stirred at room temperature. Then, 2.94 mL of a 1M solution of aluminum chloride in nitrobenzene was added dropwise. After 11.5 hours, the reaction was cooled to 0° C. and quenched by the addition of saturated aqueous sodium bicarbonate and partitioned between ethyl acetate and aqueous sodium potassium tartarate. The organic portion was washed with additional tartarate solution and dried over sodium sulfate. Purification of the concentrate by flash chromatography on silica gel (methylene chloride:methanol, 97:3) gave the title compound (354 mg).

reactant | [3-(2-{benzyl-[4-(4-nitrophenyl)butyl]amino}ethyl)-2-(3,5-dimethylphenyl)-1H-indol-5-yl]carbamic acid benzyl ester | 25 mL, 500 mg | C(C1=CC=CC=C1)OC(NC=1C=C2C(=C(NC2=CC1)C1=CC(=CC(=C1)C)C)CCN(CCCCC1=CC=C(C=C1)[N+](=O)[O-])CC1=CC=CC=C1)=O | C43H44N4O4
reactant | anisole | 0.50 mL | C1(=CC=CC=C1)OC | C7H8O
reactant | benzyl alcohol | 0.035 mL | C(C1=CC=CC=C1)O | C7H8O
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | nitrobenzene | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 3-(2-{benzyl-[4-(4-nitrophenyl)butyl]amino}ethyl)-2-(3,5-dimethylphenyl)-1H-indol-5-ylamine | 354 mg | C(C1=CC=CC=C1)N(CCC1=C(NC2=CC=C(C=C12)N)C1=CC(=CC(=C1)C)C)CCCCC1=CC=C(C=C1)[N+](=O)[O-] | C35H38N4O2
